US08110585B2
methyl 3-amino-4-fluoro-2-methylbenzoate
A mixture of a crudely purified product (6.00 g, purity 50%) of methyl 4-fluoro-2-methyl-3-nitrobenzoate and wet palladium carbon (10 wt %, 300 mg, 2.81 mmol) in methanol (100 mL) was stirred under hydrogen atmosphere for 4 hr. The catalyst was filtered off through celite, the filtrate was concentrated under reduced pressure, and the residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/20→1/10) to give the title compound (2.13 g, yield 42%).

reactant | methyl 4-fluoro-2-methyl-3-nitrobenzoate | 6.00 g | FC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H8FNO4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium carbon | 2.81 mmol, 300 mg | [C].[Pd]
product | methyl 3-amino-4-fluoro-2-methylbenzoate | 2.13 g, yield 42% | NC=1C(=C(C(=O)OC)C=CC1F)C | C9H10FNO2
